US05442060
A mixture of 3-(2, 3-dimethoxy-5-nitropheyl) octanoic acid and 2, 6-diisopropylaniline was allowed to react in a conventional manner to give N-(2, 6-diisopropylphenyl)-3-(2, 3-dimethoxy-5-nitrophenyl) octanamide.

reactant | 3-(2, 3-dimethoxy-5-nitropheyl) octanoic acid | COC1=C(C=C(C=C1OC)[N+](=O)[O-])C(CC(=O)O)CCCCC | C16H23NO6
reactant | 2, 6-diisopropylaniline | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | N-(2, 6-diisopropylphenyl)-3-(2, 3-dimethoxy-5-nitrophenyl) octanamide | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCC)C1=C(C(=CC(=C1)[N+](=O)[O-])OC)OC)=O | C28H40N2O5
